US08283383B2
5-(Ethyl-isobutyryl-amino)-4′-methyl-biphenyl-3-carboxylic acid was reacted with 1-pyrazin-2-yl-ethylamine following the procedure of step 5 of Example 1 to give 5-(ethyl-isobutyryl-amino)-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide, MS (M+H)=431.

reactant | 5-(Ethyl-isobutyryl-amino)-4′-methyl-biphenyl-3-carboxylic acid | C(C)N(C=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O)C(C(C)C)=O | C20H23NO3
reactant | 1-pyrazin-2-yl-ethylamine | N1=C(C=NC=C1)C(C)N | C6H9N3
product | 5-(ethyl-isobutyryl-amino)-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide | N1=C(C=NC=C1)C(C)NC(=O)C=1C=C(C=C(C1)N(C(C(C)C)=O)CC)C1=CC=C(C=C1)C | C26H30N4O2
